US07319098B2
Synthesis of 1-(3-{[2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-propyl)-2-methyl-piperidinium chloride (Compound 76)
2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 3-(2-methylpiperidin-1-yl)propan-1-amine (138 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 92 mg (60%) was obtained by following the procedure described in Example 1.

reactant | 2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC1=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=CC=C1 | C16H10ClNO4
reactant | 3-(2-methylpiperidin-1-yl)propan-1-amine | 0.792 mmol, 138 μL | CC1N(CCCC1)CCCN | C9H20N2
product | 1-(3-{[2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-propyl)-2-methyl-piperidinium chloride | [Cl-].ClC1=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCCC[NH+]2C(CCCC2)C)=O)C=CC=C1 | InChI=1S/C25H28ClN3O3.ClH/c1-17-7-4-5-13-28(17)14-6-12-27-23(30)18-10-11-20-21(15-18)25(32)29(24(20)31)16-19-8-2-3-9-22(19)26;/h2-3,8-11,15,17H,4-7,12-14,16H2,1H3,(H,27,30);1H
